US05252732
17-Ethyl-1-hydroxy-12-[2'-(4"-(1-N-methylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of tri(1-methylindol-5-yl)bismuthine (35 mg., 0.058 mmol.) in CH2Cl2 (0.7 mL) was added peracetic acid (0.015 mL., 0.074 mmol., 32% in acetic acid) followed in 15 minutes by 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (25 mg., 0.032 mmol.) and Cu(OAc)2 (5 mg., 0.03 mmol.). The reaction mixture was stirred for 3 days at room temperature. The reaction was quenched with saturated aqueous NaHCO3 and extracted 2× with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered and concentrated in vacuo. The product was isolated and purified by preparative TLC. on silica gel (2:1 hexane/acetone then 5% CH3OH in CH2Cl2) to give 10.2 mg of the title compound. Partial 1H NMR (CDCl3, 200 MHz) δ: 7.18 (bs, 1H); 7.16 (d, J=7.5 Hz, 1H); 6.98 (d, J=3 Hz, 1H); 6.92 (dd, J=2.5 Hz and 7.5 Hz, 1H); 6.33 (d, J=3 Hz, 1H); 3.64 (s, 3H); 3.51 (s, 3H).

reactant | tri(1-methylindol-5-yl)bismuthine | 0.058 mmol, 35 mg | CN1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CN(C2=CC1)C)C=1C=C2C=CN(C2=CC1)C
reactant | peracetic acid | 0.074 mmol, 0.015 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.032 mmol, 25 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H69NO11
solvent | CH2Cl2 | 0.7 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.03 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-(1-N-methylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 10.2 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)C)OC)C)C)=O | C52H76N2O11
